US07618960B2
Synthesis of (S)-1-(3,4,5-trifluorophenyl)ethylamine
Triphenylphosphine (1.23 g) was added to a solution of 5-((S)-1-azidoethyl)-1,2,3-trifluorobenzene (858 mg) in THF (20 ml) in a nitrogen atmosphere, and the reaction solution was stirred at room temperature for five minutes. Thereafter, water (2.5 ml) was added to the reaction solution, which was then stirred at 60° C. for 2.5 hours. The reaction solution was returned to room temperature, followed by extraction with 2 N hydrochloric acid (twice). The hydrochloric acid extraction layer was washed with ethyl acetate and then made basic with a 5 N sodium hydroxide solution, followed by extraction with methylene chloride (twice). The methylene chloride layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 348 mg of the title compound. Further, the following operation was performed in order to collect the title compound remaining in the ethyl acetate dilution of the reaction solution. Diethyl ether was added to the dilution, followed by extraction with water. The water extraction layer was washed with diethyl ether and then made basic with a 5 N sodium hydroxide solution, followed by extraction with methylene chloride (twice). The methylene chloride layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 413 mg of the title compound.

reactant | Triphenylphosphine | 1.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-((S)-1-azidoethyl)-1,2,3-trifluorobenzene | 858 mg | N(=[N+]=[N-])[C@@H](C)C=1C=C(C(=C(C1)F)F)F | C8H6F3N3
reactant | water | 2.5 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (S)-1-(3,4,5-trifluorophenyl)ethylamine | 348 mg | FC=1C=C(C=C(C1F)F)[C@H](C)N | C8H8F3N
